US08664246B2
Methyl 2-chloro-6-(2-methoxyphenyl)pyridine-3-carboxylate
500 mg (1.90 mmol) of 2-chloro-6-(2-methoxyphenyl)pyridine-3-carboxylic acid were initially charged in a mixture of 20 ml of methanol and 8 ml of toluene and admixed with 8 ml (16 mmol) of a 2 molar solution of trimethylsilyldiazomethane in hexane. The mixture was stirred at RT for 15 h and then 1 ml of acetic acid was added. The solvent was removed fully under reduced pressure, and the resulting solid was used without further purification. 502 mg (87% of theory) of the product were obtained.

reactant | 2-chloro-6-(2-methoxyphenyl)pyridine-3-carboxylic acid | 1.90 mmol, 500 mg | ClC1=NC(=CC=C1C(=O)O)C1=C(C=CC=C1)OC | C13H10ClNO3
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 20 ml | CO | CH4O
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | Methyl 2-chloro-6-(2-methoxyphenyl)pyridine-3-carboxylate | ClC1=NC(=CC=C1C(=O)OC)C1=C(C=CC=C1)OC | C14H12ClNO3
